US04238506
By the reaction of ethyl β-(4-aminophenyl)-propionate hydrochloride with 5-chloro-2-methoxybenzoyl chloride. there is obtained β-[4-(5-chloro-2-methoxybenzamido)-phenyl]-propionic acid; m.p. 188°-190° C., after recrystallization from ethanol.

reactant | ethyl β-(4-aminophenyl)-propionate hydrochloride | Cl.NC1=CC=C(C=C1)CCC(=O)OCC
reactant | 5-chloro-2-methoxybenzoyl chloride | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
product | β-[4-(5-chloro-2-methoxybenzamido)-phenyl]-propionic acid | ClC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)CCC(=O)O)C1)OC | C17H16ClNO4
